Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-2.46796001306
[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][O:4][C:5][H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-7.85233412989
[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.75445467531
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.7084464773
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.82051853941
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])#[C:7][H:8]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],1.3909778403100002
[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:11][H:12]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.21880880959
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13].[H:9],4.90468403137
[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-2.13064314154
[H:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:12]([O:11][O:10])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]1([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]1([H:13])[H:14],-2.65648091
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:12].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11],4.64960726538
[H:1][C:2]([H:3])=[C:4][C:13]([H:14])([H:15])[H:16].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.19664296887
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.277705277219998
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[C:9]([H:10])[H:11].[H:1][O:2],5.65269250132
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],1.29925583594
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:8]([H:9])[C:10][H:11].[H:7],4.024625944059999
[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.9742835342
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])[H:8]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8],-4.29960818367
[H:1][C:3]([C:8]([H:9])([H:10])/[C:11](=[C:2]/[C:4]([H:5])([H:6])[H:7])[H:12])[H:13]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-2.93658153805
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9][H:10],3.72702728847
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:4][C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3],3.8075817755300014
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],1.63020757363
[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-3.20036721682
[C:4]([H:5])=[O:6].[H:1][C:2][O:3][C:7][H:8]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][H:8],-1.42743138599
[C:1].[C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-3.91057992412
[C:1]#[C:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]([C:2]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15])([H:6])([H:7])[H:8].[C:3]#[C:5],5.16097305893
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:9]=[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8],6.28254000263
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.67616292744
